US07777047B2
1-tert-butyl 2-ethyl 7-(cyclopropylamino)-5-(2-methoxyethoxy)indoline-1,2-dicarboxylate
To a mixture of 1-tert-butyl 2-ethyl 7-amino-5-(2-methoxyethoxy)indoline-1,2-dicarboxylate (2.76 g), [(1-ethoxycyclopropyl)oxy](trimethyl)silane (7.29 mL), acetic acid (4.19 mL) and ethanol (70 mL) was added sodium cyanoborohydride (122 mg), and the mixture was refluxed for 3 hr. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with ethyl acetate and water. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and filtered, and the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give the title compound (2.30 g, yield 75%) as a pale-yellow oil from a fraction eluted with ethyl acetate-hexane (4:1, volume ratio).

reactant | 1-tert-butyl 2-ethyl 7-amino-5-(2-methoxyethoxy)indoline-1,2-dicarboxylate | 2.76 g | NC=1C=C(C=C2CC(N(C12)C(=O)OC(C)(C)C)C(=O)OCC)OCCOC | C19H28N2O6
reactant | [(1-ethoxycyclopropyl)oxy](trimethyl)silane | 7.29 mL | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | acetic acid | 4.19 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 122 mg | C(#N)[BH3-].[Na+]
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | 1-tert-butyl 2-ethyl 7-(cyclopropylamino)-5-(2-methoxyethoxy)indoline-1,2-dicarboxylate | 2.30 g, yield 75% | C1(CC1)NC=1C=C(C=C2CC(N(C12)C(=O)OC(C)(C)C)C(=O)OCC)OCCOC | C22H32N2O6
